US08067408B2
To a clear solution of 1,1-dimethylethyl [(3-bromo-5-fluorophenyl)methyl]carbamate (280 mg, 1.11 mmol) 207310-29 in DCM (1 mL) was added 4N HCl in dioxane (1 mL). Solid precipitated out from the solution after 30 min. but the mixture was stirred at RT for another hour. It was then concentrated under vacuum to get rid of solvent. Then the residue was re-dissolved in DCM. Et3N (0.5 mL, 3.07 mmol) was added followed by 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (300 mg, 0.62 mmol) and HBTU (311 mg, 3.07 mmol). The mixture was stirred at RT overnight. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The organic layer was then washed with water followed by the brine wash. The organic layer was then concentrated under vacuum to give a crude residue. It was purified with CombiFlash chromatography, eluting with 0 to 10% methanol in DCM to obtain N-[(3-bromo-5-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide as a solid (307 mg, 78%). LC-MS m/z 637 (M+H)+.

reactant | 1,1-dimethylethyl [(3-bromo-5-fluorophenyl)methyl]carbamate | 1.11 mmol, 280 mg | BrC=1C=C(C=C(C1)F)CNC(OC(C)(C)C)=O | C12H15BrFNO2
reactant | HCl | 4N | Cl | ClH
reactant | Et3N | 3.07 mmol, 0.5 mL | CCN(CC)CC | C6H15N
reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 0.62 mmol, 300 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | HBTU | 3.07 mmol, 311 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-[(3-bromo-5-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 307 mg, 78% | BrC=1C=C(C=C(C1)F)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrFN6O3
